US08729105B2
Preparation of (S)-4-(4-chlorophenyl)-N-((3-methoxyisoxazol-5-yl)methyl)-5-(1,1,1-trifluoropropan-2-yloxy)picolinamide
The title compound was synthesized in analogy to Example 1, using (S)-4-(4-chlorophenyl)-5-(1,1,1-trifluoropropan-2-yloxy)picolinic acid (example AR) and 3-methoxy-5-isoxazolemethanamine hydrochloride as starting materials. MS: 456.1 (M+H)+.

reactant | (S)-4-(4-chlorophenyl)-5-(1,1,1-trifluoropropan-2-yloxy)picolinic acid | ClC1=CC=C(C=C1)C1=CC(=NC=C1O[C@H](C(F)(F)F)C)C(=O)O | C15H11ClF3NO3
reactant | 3-methoxy-5-isoxazolemethanamine hydrochloride | Cl.COC1=NOC(=C1)CN
product | (S)-4-(4-chlorophenyl)-N-((3-methoxyisoxazol-5-yl)methyl)-5-(1,1,1-trifluoropropan-2-yloxy)picolinamide | ClC1=CC=C(C=C1)C1=CC(=NC=C1O[C@H](C(F)(F)F)C)C(=O)NCC1=CC(=NO1)OC | C20H17ClF3N3O4
